US09416135B2
To a solution of (R)-methyl 2-(4-chloro-5-(methoxycarbonyl)pyrimidin-2-yl)-1-isopropyl-7-(methylsulfonyl)-1,2,3,4-tetrahydrobenzo[4,5]imidazo[1,2-a]pyrazine-8-carboxylate (20 mg, 0.04 mmol) and 2,4,6-trimethyl-1,3,5,2,4,6-trioxatriborinane (50 mg, 0.4 mmol) in 5 mL of dioxane was added K2CO3 (54 mg, 0.4 mmol) followed by Pd(PPh3)4 (5 mg, 0.004 mmol) under N2 with stirring. The mixture was refluxed for 2 h until the material was disappeared. The reaction mixture was cooled to rt. The dioxane was removed under vacuum. Water (10 mL) was added and the mixture was extracted with EtOAc (10 mL×3). The organic layers were dried over anhydrous Na2SO4, filtered and concentrated under vacuum. The residue was purified by preparative TLC to afford (R)-methyl 1-isopropyl-2-(5-(methoxycarbonyl)-4-methylpyrimidin-2-yl)-7-(methylsulfonyl)-1,2,3,4-tetrahydrobenzo[4,5]imidazo[1,2-a]pyrazine-8-carboxylate (15 mg, 75% yield) as a colorless oil. LC-MS MS (ESI) m/z 502.1 [M+H]+.

reactant | (R)-methyl 2-(4-chloro-5-(methoxycarbonyl)pyrimidin-2-yl)-1-isopropyl-7-(methylsulfonyl)-1,2,3,4-tetrahydrobenzo[4,5]imidazo[1,2-a]pyrazine-8-carboxylate | 0.04 mmol, 20 mg | ClC1=NC(=NC=C1C(=O)OC)N1[C@@H](C=2N(CC1)C1=C(N2)C=C(C(=C1)S(=O)(=O)C)C(=O)OC)C(C)C | C22H24ClN5O6S
reactant | 2,4,6-trimethyl-1,3,5,2,4,6-trioxatriborinane | 0.4 mmol, 50 mg | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | K2CO3 | 0.4 mmol, 54 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.004 mmol, 5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (R)-methyl 1-isopropyl-2-(5-(methoxycarbonyl)-4-methylpyrimidin-2-yl)-7-(methylsulfonyl)-1,2,3,4-tetrahydrobenzo[4,5]imidazo[1,2-a]pyrazine-8-carboxylate | 15 mg, 75% yield | C(C)(C)[C@@H]1C=2N(CCN1C1=NC=C(C(=N1)C)C(=O)OC)C1=C(N2)C=C(C(=C1)S(=O)(=O)C)C(=O)OC | C23H27N5O6S
